US04673746
m-dimethoxybenzene (27.6 g) and o-fluorobenzoyl chloride (31.7 g) are dissolved in 200 ml of dichloroethane and AlCl3 (28.0 g) is added portionwise. After two hours an additional 56 g of AlCl3 is added and the reaction mixture warmed at 60° C. for 1.5 hours. It is then poured into H2O and extracted with ethylacetate. Drying and evaporation gives a crystalline compound. Trituration with toluene gives 2,4-dihydroxy-2'-fluorobenzophenone, mp 109°-111° C.

reactant | m-dimethoxybenzene | 27.6 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | o-fluorobenzoyl chloride | 31.7 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | AlCl3 | 28.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | AlCl3 | 56 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | H2O | O | H2O
solvent | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4-dihydroxy-2'-fluorobenzophenone | OC1=C(C(=O)C2=C(C=CC=C2)F)C=CC(=C1)O | C13H9FO3
